US07935716B2
212 mg of ethyl 1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxyl ate and 117 mg of 2-amino-5-ethyl-1,3,4-thiadiazole were added to 2.5 ml of bromobenzene, then, the mixture was stirred for 5 hours under heat refluxing condition. The reaction mixture was cooled to room temperature. The resulting solid was collected by filtration, and washed with a mixed solvent of t-butyl methyl ether and hexane and dried to obtain 200 mg of N-(5-ethyl-1,3,4-thiadiazol-2-yl)-1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxamide (hereinafter, referred to as present compound 17) represented by the formula:

reactant | ethyl 1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxyl ate | 212 mg | CN1C(C(=C(C=C1C)O)C(=O)OCC)=O | C10H13NO4
reactant | 2-amino-5-ethyl-1,3,4-thiadiazole | 117 mg | NC=1SC(=NN1)CC | C4H7N3S
reactant | bromobenzene | 2.5 ml | BrC1=CC=CC=C1 | C6H5Br
product | N-(5-ethyl-1,3,4-thiadiazol-2-yl)-1,6-dimethyl-4-hydroxy-2-oxo-1,2-dihydropyridine-3-carboxamide | 200 mg | C(C)C1=NN=C(S1)NC(=O)C=1C(N(C(=CC1O)C)C)=O | C12H14N4O3S
